US08729263B2
Step 4: 3-Hydroxy-5-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoromethanesulfonate
A mixture of 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoromethanesulfonate (2.6 g, 5.17 mmol), Pd(OAc)2 (58 mg, 0.259 mmol), and iodobenzene diacetate (2.33 g, 7.24 mmol) in 1:1 acetic acid/acetic anhydride (42 mL) was heated at 50° C. for 8 h. The mixture was cooled to RT and concentrated under reduced pressure. Flash chromatography (10-100% EtOH in DCM, followed by 7:1 EtOH/7 N ammonia in MeOH elution) provided a mixture of the title compound and the corresponding acetate (3-methoxy-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(((trifluoromethyl)sulfonyl)oxy)phenyl acetate). After concentration, the mixture was taken up in methanol and heated at 70° C. for 4 h. The solvent was evaporated to provide 3-hydroxy-5-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoro-methanesulfonate as a tan-colored solid (1.25 g). MS (M+1)=519.4. 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.08 (d, J=10.1 Hz, 1H), 7.23 (d, J=10.1 Hz, 1H), 6.57 (s, 2H), 5.16 (t, J=12.1 Hz, 1H), 3.89 (s, 3H), 3.02 (s, 3H), 1.69-1.77 (m, 2H), 1.56-1.67 (m, 2H), 1.41 (s, 6H), 1.27 (s, 6H).

reactant | 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoromethanesulfonate | 5.17 mmol, 2.6 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)OC)(F)F | C22H29F3N4O4S
reactant | iodobenzene diacetate | 7.24 mmol, 2.33 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | acetic acid acetic anhydride | 42 mL | C(C)(=O)O.C(C)(=O)OC(C)=O
catalyst | Pd(OAc)2 | 0.259 mmol, 58 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-Hydroxy-5-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=C(C(=C1)OC)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)O)(F)F | C22H29F3N4O5S
